US07547691B2
(B). Preparation of 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
Diisopropylethylamine (1.19 mL, 6.82 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.650 g, 3.41 mmol) and 1-hydroxybenzotriazole (0.460 g, 3.41 mmol) are sequentially added to a stirred suspension of 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid (1.20 g, 3.25 mmol) in anhydrous dichloromethane (25 mL) at ambient temperature under nitrogen. The resultant light suspension is treated with cyclopropylamine (0.190 g, 3.41 mmol), then the reaction mixture is allowed to stir for 5 hours. The reaction mixture is diluted with dichloromethane (50 mL) before it is washed with water (100 mL). The aqueous layer is extracted with dichloromethane (100 mL×2) to ensure no precipitation is present in the aqueous layer. The combined organic layers are concentrated and then resuspended in dichloromethane (1 mL)/diethyl ether (9 mL). After sonication and subsequent filtration, the solid is washed with additional dichloromethane (1 mL)/diethyl ether (9 mL) and dried to provide the title compound (1.10 g, 97% yield).

reactant | Diisopropylethylamine | 6.82 mmol, 1.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 3.41 mmol, 0.650 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 3.41 mmol, 0.460 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid | 3.25 mmol, 1.20 g | BrC=1C(=NC(=NC1)Cl)C1=CC2=C(S1)C=CC=C2C(=O)O | C13H6BrClN2O2S
reactant | cyclopropylamine | 3.41 mmol, 0.190 g | C1(CC1)N | C3H7N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.10 g, 97% yield | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C16H11BrClN3OS
